US06498169B1
Synthesis of 4-[N-(3,5-Dimethoxyphenyl)-N-[2-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (148 mg) and 2-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. A free base obtained was converted to a dihydrochloroide to give the title compound as yellow powder.

reactant | 4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 148 mg | COC=1C=C(C=C(C1)OC)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C28H35N3O5
reactant | 2-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C1=C(CCl)C=CC=C1 | C16H17ClO3
product | 4-[N-(3,5-Dimethoxyphenyl)-N-[2-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1)OC)N(CC1=C(C=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C44H51N3O8.2ClH/c1-48-35-24-34(25-36(26-35)49-2)47(28-30-11-9-10-12-37(30)31-20-39(50-3)43(54-7)40(21-31)51-4)33-14-17-46(18-15-33)27-29-13-16-45-38(19-29)32-22-41(52-5)44(55-8)42(23-32)53-6;;/h9-13,16,19-26,33H,14-15,17-18,27-28H2,1-8H3;2*1H
